### PR TITLE
feat(RingTheory/AdjoinRoot/Instances): charP and isReduced for adjoinRoot

### PR DESCRIPTION
**Pull request by metakunt**
Also add Armendariz's theorem and proves that R[X] is reduced if R is. From #39404 (towards the AKS primality test).

--------

## AI Disclosure (Aristotle)
- [Generalisation to IsAdjoinRoot](https://aristotle.harmonic.fun/dashboard/requests/db7d7d85-c0af-4ba5-aec1-cd5902608b2c)
- [Generalisation to Semiring for IsReduced](https://aristotle.harmonic.fun/dashboard/requests/32c2e27e-423b-4f1b-a52f-36b91b883c07)

Both proofs were subsequently exhaustively golfed to the best of my abilities.

- [ ] depends on: #43626

### CODE REVIEW

**Comment by metakunt** [comment]
How do I create a deprecated module?

**Comment by tb65536** [comment]
Look at other examples of deprecated modules in mathlib (but it's probably best to do the deprecated module in a follow-up PR to preserve the git history)

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+  rw [Ideal.mem_span_singleton] at *
+  refine (Squarefree.dvd_pow_iff_dvd ?_ (by lia)).mp hs
+  apply Separable.squarefree
+  rw [← C_1, show 1 = ((1 : Rˣ) : R) by rfl]
+  apply separable_X_pow_sub_C_unit 1
+  convert ((ZMod.isUnit_iff_coprime _ _).mpr hcprm.symm).map (ZMod.castHom (Nat.dvd_refl p) R)
+  simp
+
+theorem CharP.X_pow_sub_one (hcprm : p.Coprime r) [Nontrivial R] :
+    CharP (AdjoinRoot ((X : R[X]) ^ r - 1)) p  := by
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]: Shouldn't `AdjoinRoot` have characteristic `p` much more generally?

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+  simp only [AdjoinRoot, ← Ideal.isRadical_iff_quotient_reduced,
+    (Ideal.isRadical_iff_pow_one_lt 2 (by grind))]
+  intro s hs
+  rw [Ideal.mem_span_singleton] at *
+  refine (Squarefree.dvd_pow_iff_dvd ?_ (by lia)).mp hs
+  apply Separable.squarefree
+  rw [← C_1, show 1 = ((1 : Rˣ) : R) by rfl]
+  apply separable_X_pow_sub_C_unit 1
+  convert ((ZMod.isUnit_iff_coprime _ _).mpr hcprm.symm).map (ZMod.castHom (Nat.dvd_refl p) R)
+  simp
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]: This should hold for any radical polynomial?

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 3]
```diff
@@ -0,0 +1,58 @@
...
+
+public section
+
+namespace AdjoinRoot
+
+open _root_.Polynomial Ideal
+
+variable {r p : ℕ} {R : Type*} [CommRing R] {f : R[X]}
+
+theorem spanRadical_iff_isReduced : (span {f}).IsRadical ↔ IsReduced (AdjoinRoot f) :=
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]: The two sides of this should be swapped.

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 4]
```diff
@@ -0,0 +1,58 @@
...
+  isRadical_iff_quotient_reduced (Ideal.span {f})
+
+variable [CharP R p]
+
+set_option backward.isDefEq.respectTransparency false in
+theorem IsReduced.X_pow_sub_one (hcprm : p.Coprime r) [IsArtinianRing R] [IsReduced R] :
+    IsReduced (AdjoinRoot ((X : R[X]) ^ r - 1)) := by
+  simp only [← spanRadical_iff_isReduced, (Ideal.isRadical_iff_pow_one_lt 2 (by grind))]
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]: Can you use `isRadical_iff_span_singleton` and prove `IsRadical (X ^ r - 1)` as a separate lemma?

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 5]
```diff
@@ -0,0 +1,58 @@
...
+  rw [← C_1, show 1 = ((1 : Rˣ) : R) by rfl]
+  apply separable_X_pow_sub_C_unit 1
+  convert ((ZMod.isUnit_iff_coprime _ _).mpr hcprm.symm).map (ZMod.castHom (Nat.dvd_refl p) R)
+  simp
+
+theorem charP_of_monic_of_degree_pos (monic : f.Monic) (deg : 0 < f.degree) :
+    CharP (AdjoinRoot f) p  := by
+  refine _root_.charP_of_injective_algebraMap (R := R) ?_ _
+  apply (faithfulSMul_iff_algebraMap_injective R _).mp
+  exact (faithfulSMul_of_monic_of_degree_pos monic deg)
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]:
```suggestion
  rw [← faithfulSMul_iff_algebraMap_injective]
  exact faithfulSMul_of_monic_of_degree_pos monic deg
```

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 6]
```diff
@@ -0,0 +1,58 @@
...
+
+variable {r p : ℕ} {R : Type*} [CommRing R] {f : R[X]}
+
+theorem isReduced_iff_spanRadical : IsReduced (AdjoinRoot f) ↔ (span {f}).IsRadical :=
+  (isRadical_iff_quotient_reduced (Ideal.span {f})).symm
+
+variable [CharP R p]
+
+set_option backward.isDefEq.respectTransparency false in
+theorem IsReduced.X_pow_sub_one (hcprm : p.Coprime r) [IsArtinianRing R] [IsReduced R] :
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]: Are you sure you need `IsArtinianRing`?

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 7]
```diff
@@ -0,0 +1,58 @@
...
+  apply (faithfulSMul_iff_algebraMap_injective R _).mp
+  exact (faithfulSMul_of_monic_of_degree_pos monic deg)
+
+theorem charP_of_X_pow_sub_one (h : 0 < r) [Nontrivial R] :
+    CharP (AdjoinRoot ((X : R[X]) ^ r - 1)) p := by
+  apply charP_of_monic_of_degree_pos
+  · simp [Monic.def, leadingCoeff_X_pow_sub_one h]
+  · refine natDegree_pos_iff_degree_pos.mp ?_
+    suffices ((X : R[X]) ^ r - 1).natDegree = r by grind
+    rw [← C_1, natDegree_X_pow_sub_C]
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]: Can you use `monic_X_pow_sub_C` and `natDegree_X_pow_sub_C` (maybe add the `X - C a` version first?)

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean [hunk 8]
```diff
@@ -0,0 +1,91 @@
...
+
+@[expose] public section
+
+namespace AdjoinRoot
+
+variable (R : Type*) [CommRing R] (r j k : ℕ)
+
+/-- The algebra homomorphism taking an element to the `k`-th power. -/
+noncomputable def mapCyclotomic :
+    AdjoinRoot (X ^ r - 1 : R[X]) →ₐ[R] AdjoinRoot (X ^ r - 1 : R[X]) :=
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: Does this generalize to `IsAdjoinRoot`?

**Review by tb65536 — COMMENTED** [review]
This should probably be two separate PRs.

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean (hunk 5 above)
Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/Instances.lean]: I swear when I used the rw it broke....

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean (hunk 7 above)
Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/Instances.lean]: I swear I was looking for the theorems but couldn't find them...

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean (hunk 6 above)
Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/Instances.lean]: If I remove it both those lines break
```lean4
  refine (Squarefree.dvd_pow_iff_dvd ?_ (by lia)).mp hs
  apply Separable.squarefree
```

Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/Instances.lean]: I used the classes because those are needed to get a DecompositionMonoid on Polynomial

File: Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean (hunk 8 above)
Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/MapCyclotomic.lean]: I put it in #43360

**Comment by metakunt** [comment]
Done, I've split the PR

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean (hunk 6 above)
Comment (tb65536) [reply Mathlib/RingTheory/AdjoinRoot/Instances.lean]: What I mean, is whether it the theorem generalized mathematically, as `IsArtinianRing` is a rather strong condition. You need `R` to be reduced, but I wonder if you can get away with `r` being a non-zero-divisor in `R`?

Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/Instances.lean]: I've tried for an hour it but failed.

This is my proof goal
image
However it appears to be useless. I thought about checking some coefficients and then trying to show that n = 1. I've also tried the AdjoinRoot construction which gives that it's 0. But being in the span is too weak. I don't even get that the degree of polynomials are multiple of r. You can choose any polynomial to be a representative of the span and then I can't see a way to reason about it.

Yeah I know I am missing the non-zero-divisor hypothesis. But even just unfolding the goal was daunting that I didn't bother adding the hypothesis.

The only thing I could see is exploiting the symmetry after unfolding q ^ n and arguing that some lower coefficients must be zero, then the upper coeffcients must also be zero, then  that the degree is r, which shows that n = 1. But I had no success.

Comment (metakunt) [reply Mathlib/RingTheory/AdjoinRoot/Instances.lean]: Nevermind, Aristotle solved it. I have to understand the proof first and then golf it.

**Comment by metakunt** [comment]
Ok, it worked. I assume some of those theorems will need to be generalised and find a new home.

I generated the proofs with [Aristotle](https://aristotle.harmonic.fun/dashboard/requests/db7d7d85-c0af-4ba5-aec1-cd5902608b2c) and golfed them for a few hours until I was somewhat happy.

File: Mathlib/RingTheory/AdjoinRoot/Instances.lean [hunk 9]
```diff
@@ -0,0 +1,136 @@
...
+
+variable {r n : ℕ} {R : Type*}
+
+namespace IsRadical
+
+lemma X_pow_zero_sub_one_of_zero_eq_one [Ring R] (h : (0 : R) = 1) :
+    _root_.IsRadical ((X : R[X]) ^ 0 - 1) := by
+  have := subsingleton_of_zero_eq_one h
+  intro _ y _
+  exact ⟨0, Subsingleton.elim _ _⟩
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot/Instances.lean]: I think the better theorem would be proving that `0` is radical when the ring is reduced (you might also need to add an instance stating that if `R` is reduced, then so is `R[X]`?)

**Comment by metakunt** [comment]
Let me see if I can generalise this to a Semiring instead of a CommRing.

File: Mathlib/Algebra/Polynomial/Monic.lean [hunk 10]
```diff
@@ -434,10 +434,15 @@ theorem monic_X_pow_sub {n : ℕ} (H : degree p < n) : Monic (X ^ n - p) := by
...
 /-- `X ^ n - a` is monic. -/
-theorem monic_X_pow_sub_C {R : Type u} [Ring R] (a : R) {n : ℕ} (h : n ≠ 0) :
+theorem monic_X_pow_sub_C {R : Type*} [Ring R] (a : R) {n : ℕ} (h : n ≠ 0) :
     (X ^ n - C a).Monic := by
   simpa only [map_neg, ← sub_eq_add_neg] using monic_X_pow_add_C (-a) h
 
+/-- `X ^ n - 1` is monic. -/
+theorem monic_X_pow_sub_one {R : Type*} [Ring R] {n : ℕ} (h : n ≠ 0) :
+    (X ^ n - 1 : R[X]).Monic := by
+  grind [monic_X_pow_sub_C (1 : R)]
```
Comment (tb65536) [inline Mathlib/Algebra/Polynomial/Monic.lean]: Maybe `simpa using` would be a bit nicer than `grind` here?

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 11]
```diff
@@ -121,6 +121,9 @@ theorem zero_isRadical_iff [MonoidWithZero R] : IsRadical (0 : R) ↔ IsReduced
   simp_rw [isReduced_iff, IsNilpotent, exists_imp, ← zero_dvd_iff]
   exact forall_comm
 
+lemma IsRadical.zero_of_reduced [MonoidWithZero R] [IsReduced R] : _root_.IsRadical (0 : R) := by
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean]:
```suggestion
lemma isRadical_zero [MonoidWithZero R] [IsReduced R] : _root_.IsRadical (0 : R) := by
```

File: Mathlib/Algebra/Polynomial/Monic.lean (hunk 10 above)
Comment (metakunt) [reply Mathlib/Algebra/Polynomial/Monic.lean]: I just prefer to use grind as much as I can, but I don't really have any strong opinion regarding different tactics. Is simpa faster than grind in this scenario?

Comment (tb65536) [reply Mathlib/Algebra/Polynomial/Monic.lean]: `simp` has a simpler algorithm. It's much clearer what's going on and what it's doing here (and it might also be faster).

File: Mathlib/Algebra/Polynomial/Monic.lean [hunk 12]
```diff
@@ -434,10 +434,15 @@ theorem monic_X_pow_sub {n : ℕ} (H : degree p < n) : Monic (X ^ n - p) := by
...
 /-- `X ^ n - a` is monic. -/
-theorem monic_X_pow_sub_C {R : Type u} [Ring R] (a : R) {n : ℕ} (h : n ≠ 0) :
+theorem monic_X_pow_sub_C {R : Type*} [Ring R] (a : R) {n : ℕ} (h : n ≠ 0) :
     (X ^ n - C a).Monic := by
   simpa only [map_neg, ← sub_eq_add_neg] using monic_X_pow_add_C (-a) h
 
+/-- `X ^ n - 1` is monic. -/
+theorem monic_X_pow_sub_one {R : Type*} [Ring R] {n : ℕ} (h : n ≠ 0) :
+    (X ^ n - 1 : R[X]).Monic := by
+  simpa using (monic_X_pow_sub_C (1 : R) h)
```
Comment (tb65536) [inline Mathlib/Algebra/Polynomial/Monic.lean]:
```suggestion
  simpa using monic_X_pow_sub_C (1 : R) h
```

File: Mathlib/Instances/IsReduced/Polynomial.lean [hunk 13]
```diff
@@ -0,0 +1,97 @@
...
+
+variable {R : Type*} [Semiring R] [IsReduced R]
+
+-- TODO: Private section for now. Find a new home for those theorems if necessary.
+section
+
+namespace IsReduced
+
+/-- In a reduced semiring, annihilation is symmetric. -/
+theorem mul_eq_zero_comm {a b : R} (h : a * b = 0) : b * a = 0 := by
```
Comment (tb65536) [inline Mathlib/Instances/IsReduced/Polynomial.lean]: Can you generalize the existing `mul_eq_zero_comm`?

File: Mathlib/Instances/IsReduced/Polynomial.lean [hunk 14]
```diff
@@ -0,0 +1,97 @@
...
+end
+
+public section
+
+namespace Polynomial
+
+/-- Armendariz's theorem for reduced semirings: if `p * q = 0` in `R[X]` with `R` reduced, then
+every coefficient of `p` annihilates every coefficient of `q`. -/
+theorem coeff_mul_coeff_eq_zero_of_isReduced (p q : R[X]) (h : p * q = 0) :
+    ∀ j i, (coeff p i) * (coeff q j) = 0 := by
```
Comment (tb65536) [inline Mathlib/Instances/IsReduced/Polynomial.lean]: The `i` and `j` should be before the colon, and the parentheses should be removed.

File: Mathlib/Instances/IsReduced/Polynomial.lean [hunk 15]
```diff
@@ -0,0 +1,97 @@
...
+      have : ∑ x ∈ Finset.antidiagonal (i + j),
+          (coeff p x.1 * coeff q x.2) * coeff q j = (coeff p i * coeff q j) * coeff q j := by
+        apply Finset.sum_eq_single (i, j)
+        · rintro ⟨s, t⟩ hst hne
+          grind [Finset.mem_antidiagonal.mp hst, IsReduced.mul_mid_eq_zero]
+        · intro hmem
+          grind [Finset.mem_antidiagonal]
+      grind [IsReduced.mul_eq_zero_of_mul_sq_eq_zero]
+
+instance : IsReduced R[X] := by
```
Comment (tb65536) [inline Mathlib/Instances/IsReduced/Polynomial.lean]: I'm surprised this isn't easier. If `R` is reduced, then powers of the leading coefficient stay nonzero, so powers of the polynomial stay nonzero.

Comment (metakunt) [reply Mathlib/Instances/IsReduced/Polynomial.lean]: Maybe you are right, I used this [Polynomial.leadingCoeff_pow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Operations.html#Polynomial.leadingCoeff_pow) but this also exists [Polynomial.leadingCoeff_pow'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Operations.html#Polynomial.leadingCoeff_pow'). Let me see if it works without.

File: Mathlib/Instances/IsReduced/Polynomial.lean (hunk 13 above)
Comment (metakunt) [reply Mathlib/Instances/IsReduced/Polynomial.lean]: Yes.

Comment (metakunt) [reply Mathlib/Instances/IsReduced/Polynomial.lean]: The existing mul_eq_zero_comm does not have addition. And this proof uses addition. I don't see how it would work.

File: Mathlib/Algebra/Polynomial/Coeff.lean [hunk 16]
```diff
@@ -312,6 +314,27 @@ theorem one_add_X_pow_sub_X_pow {S : Type*} [CommRing S] (d : ℕ) :
   simp [Polynomial.coeff_one_add_X_pow]
   split_ifs <;> simp_all [Nat.choose_eq_zero_of_lt, lt_iff_le_and_ne]
 
+/-- Armendariz's theorem for reduced semirings: if `p * q = 0` in `R[X]` with `R` reduced, then
+every coefficient of `p` annihilates every coefficient of `q`. -/
+theorem coeff_mul_coeff_eq_zero_of_isReduced [IsReduced R] (p q : R[X]) (h : p * q = 0) (j i : ℕ) :
```
Comment (tb65536) [inline Mathlib/Algebra/Polynomial/Coeff.lean:319]: This isn't used anymore (it could be a separate PR, but shouldn't hold up this PR)

File: Mathlib/Algebra/Polynomial/Monic.lean [hunk 17]
```diff
@@ -434,10 +434,15 @@ theorem monic_X_pow_sub {n : ℕ} (H : degree p < n) : Monic (X ^ n - p) := by
   simpa [sub_eq_add_neg] using monic_X_pow_add (show degree (-p) < n by rwa [← degree_neg p] at H)
 
 /-- `X ^ n - a` is monic. -/
-theorem monic_X_pow_sub_C {R : Type u} [Ring R] (a : R) {n : ℕ} (h : n ≠ 0) :
+theorem monic_X_pow_sub_C {R : Type*} [Ring R] (a : R) {n : ℕ} (h : n ≠ 0) :
     (X ^ n - C a).Monic := by
   simpa only [map_neg, ← sub_eq_add_neg] using monic_X_pow_add_C (-a) h
 
+/-- `X ^ n - 1` is monic. -/
+theorem monic_X_pow_sub_one {R : Type*} [Ring R] {n : ℕ} (h : n ≠ 0) :
```
Comment (tb65536) [inline Mathlib/Algebra/Polynomial/Monic.lean:442]: splice-bot maintainer merge

File: Mathlib/Instances/IsReduced/Polynomial.lean [hunk 18]
```diff
@@ -0,0 +1,22 @@
+/-
+Copyright (c) 2026 metakunt. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: metakunt
+-/
+module
+
+public import Mathlib.Algebra.Polynomial.Degree.Operations
```
Comment (tb65536) [inline Mathlib/Instances/IsReduced/Polynomial.lean:8]: If this only has one import, than it can be moved to that earlier file.

File: Mathlib/RingTheory/IsReduced.lean [hunk 19]
```diff
@@ -0,0 +1,44 @@
...
+variable {R : Type*} [Semiring R] [IsReduced R]
+
+variable {a b : R}
+
+public section
+
+namespace IsReduced
+
+/-- In a reduced semiring, annihilation is symmetric. -/
+theorem mul_eq_zero_comm (h : a * b = 0) : b * a = 0 := by
```
Comment (tb65536) [inline Mathlib/RingTheory/IsReduced.lean]: Is it possible to move this to `Mathlib.Algebra.GroupWithZero.Basic` and delete the existing `mul_eq_zero_comm`?

File: Mathlib/RingTheory/Nilpotent/Basic.lean [hunk 20]
```diff
@@ -121,6 +121,9 @@ theorem zero_isRadical_iff [MonoidWithZero R] : IsRadical (0 : R) ↔ IsReduced
   simp_rw [isReduced_iff, IsNilpotent, exists_imp, ← zero_dvd_iff]
   exact forall_comm
 
+lemma isRadical_zero [MonoidWithZero R] [IsReduced R] : _root_.IsRadical (0 : R) := by
+  simpa [zero_isRadical_iff]
```
Comment (tb65536) [inline Mathlib/RingTheory/Nilpotent/Basic.lean:125]: splice-bot maintainer merge

File: Mathlib/RingTheory/IsReduced.lean (hunk 19 above)
Comment (metakunt) [reply Mathlib/RingTheory/IsReduced.lean]: I moved it, but I can't delete it. The original theorem has MulZeroClass, but I need atleast a monoid.

File: Mathlib/Instances/IsReduced/Polynomial.lean (hunk 18 above)
Comment (metakunt) [reply Mathlib/Instances/IsReduced/Polynomial.lean:8]: True. I wanted to introduce a instances directory so that instances are hierarchically in one place. But I'll can put this into that file.

File: Mathlib/Algebra/Polynomial/Coeff.lean (hunk 16 above)
Comment (metakunt) [reply Mathlib/Algebra/Polynomial/Coeff.lean:319]: Can I also create a PR with splicebot, or is this just for merging?

Comment (tb65536) [reply Mathlib/Algebra/Polynomial/Coeff.lean:319]: Might be simplest just to make a separate PR manually (writing to the autogenerated branch might be more friction than it's worth, although you can always try).

Comment (metakunt) [reply Mathlib/Algebra/Polynomial/Coeff.lean:319]: What's the command for it? I'd like to try.

Comment (tb65536) [reply Mathlib/Algebra/Polynomial/Coeff.lean:319]: Just "split-bot", I think.

File: Mathlib/Algebra/Polynomial/Coeff.lean [hunk 21]
```diff
@@ -312,6 +314,27 @@ theorem one_add_X_pow_sub_X_pow {S : Type*} [CommRing S] (d : ℕ) :
...
+        rw [← Finset.sum_mul, ← coeff_mul, h, coeff_zero, zero_mul]
+      have : ∑ x ∈ Finset.antidiagonal (i + j),
+          (coeff p x.1 * coeff q x.2) * coeff q j = (coeff p i * coeff q j) * coeff q j := by
+        apply Finset.sum_eq_single (i, j)
+        · rintro ⟨s, t⟩ hst hne
+          grind [Finset.mem_antidiagonal.mp hst, IsReduced.mul_mid_eq_zero]
+        · intro hmem
+          grind [Finset.mem_antidiagonal]
+      grind [IsReduced.mul_eq_zero_of_mul_sq_eq_zero]
+
```
Comment (metakunt) [inline Mathlib/Algebra/Polynomial/Coeff.lean:337]: split-bot

Comment (metakunt) [reply Mathlib/Algebra/Polynomial/Coeff.lean:337]: splice-bot

File: Mathlib/Algebra/GroupWithZero/Basic.lean
Comment (metakunt) [inline Mathlib/Algebra/GroupWithZero/Basic.lean:297]: splice-bot

File: Mathlib/Algebra/Polynomial/Coeff.lean [hunk 22]
```diff
@@ -312,6 +314,27 @@ theorem one_add_X_pow_sub_X_pow {S : Type*} [CommRing S] (d : ℕ) :
...
+        rw [← Finset.sum_mul, ← coeff_mul, h, coeff_zero, zero_mul]
+      have : ∑ x ∈ Finset.antidiagonal (i + j),
+          (coeff p x.1 * coeff q x.2) * coeff q j = (coeff p i * coeff q j) * coeff q j := by
+        apply Finset.sum_eq_single (i, j)
+        · rintro ⟨s, t⟩ hst hne
+          grind [Finset.mem_antidiagonal.mp hst, mul_mid_eq_zero_of_reduced]
+        · intro hmem
+          grind [Finset.mem_antidiagonal]
+      grind [mul_eq_zero_of_mul_sq_eq_zero_of_reduced]
+
```
Comment (metakunt) [inline Mathlib/Algebra/Polynomial/Coeff.lean:337]: splice-bot

File: Mathlib/Algebra/GroupWithZero/Basic.lean [hunk 23]
```diff
@@ -275,6 +275,26 @@ theorem exists_right_inv_of_exists_left_inv {α} [MonoidWithZero α]
...
+  refine IsReduced.eq_zero _ ⟨2, ?_⟩
+  have h2 : (a * r * b) ^ 2 = a * r * (b * a) * (r * b) := by simp [pow_two, mul_assoc]
+  simp [h2, hba]
+
+/-- In a reduced monoid, `a * b * b = 0` implies `a * b = 0`. -/
+theorem mul_eq_zero_of_mul_sq_eq_zero_of_reduced (h : a * b * b = 0) : a * b = 0 := by
+  have h2 : b * (a * b) = 0 := mul_eq_zero_comm_of_reduced (a := a * b) (b := b) h
+  refine IsReduced.eq_zero _ ⟨2, ?_⟩
+  simp [pow_two, mul_assoc, h2]
+
```
Comment (metakunt) [inline Mathlib/Algebra/GroupWithZero/Basic.lean:297]: splice-bot

**Comment by tb65536** [comment]
Can you merge master?

**Comment by tb65536** [comment]
Can you mark this as depending on #43626?
